### PR TITLE
[Merged by Bors] - feat(Tactic/NormNum): `norm_num` extension for `Irrational x^y` 

### PR DESCRIPTION
**Pull request by vasnesterov**
Add `norm_num` extension for `Irrational x^y`. 

---

I don't disprove `Irrational x^y` when `x^y` is, in fact, rational here, because I hope in the future `norm_num` will be able to simplify such expressions to their rational representations (e.g. `(8/27)^(2/3) --> 4/9`), and then apply `Rat.not_irrational`.

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Tactic/NormNum/Irrational.lean [hunk 1]
```diff
@@ -0,0 +1,414 @@
...
+structure NotPowerCertificate (m n : Q(ℕ)) where
+  /-- Natural `k` such that `k^n < m < (k + 1)^n`. -/
+  k : Q(ℕ)
+  /-- Proof of `k^n < m`. -/
+  pf_left : Q($k^$n < $m)
+  /-- Proof of `m < (k + 1)^n`. -/
+  pf_right : Q($m < ($k + 1)^$n)
+
+/-- Finds `k` such that `k^n < m < (k + 1)^n` using bisection method. -/
+def findNotPowerCertificateCore (m n : ℕ) : Option ℕ := Id.run do
```
Comment (dwrensha) [inline Mathlib/Tactic/NormNum/Irrational.lean:317]: Setting `n` to be `0` causes the output to be invalid.
```lean
#eval findNotPowerCertificateCore 2 0
-- some 2
```

File: Mathlib/Tactic/NormNum/Irrational.lean [hunk 2]
```diff
@@ -0,0 +1,414 @@
...
+            let _ : $gx =Q 1 := ⟨⟩
+            let hx_isRat' : Q(IsRat $x (Int.ofNat $x_num') $x_den) := x_isRat
+            let hy_isRat' : Q(IsRat $y (Int.ofNat $y_num') $y_den) := y_isRat
+            try
+              let numCert ← findNotPowerCertificate q($x_num') y_den
+              assumeInstancesCommute
+              return .isTrue q(irrational_rpow_rat_rat_of_num $hx_isRat' $hy_isRat'
+                $hx_coprime $hy_coprime $numCert.pf_left $numCert.pf_right)
+            catch _ =>
+              let denCert ← findNotPowerCertificate q($x_den) y_den
```
Comment (dwrensha) [inline Mathlib/Tactic/NormNum/Irrational.lean:373]: The tests still pass if I replace the body of this `catch` block with `failure`. Please add a test case that exercises this branch.

File: Mathlib/Tactic/NormNum/Irrational.lean (hunk 1 above)
Comment (vasnesterov) [reply Mathlib/Tactic/NormNum/Irrational.lean:318]: Hm, this function is called with `n=y_den`, which cannot be less than 2. I've added "It assumes `n > 0`" to the docstring.

File: Mathlib/Tactic/NormNum/Irrational.lean [hunk 3]
```diff
@@ -0,0 +1,414 @@
...
+    have hab : a.primeFactors ∩ b.primeFactors = ∅ := by
+      rwa [← Finset.disjoint_iff_inter_eq_empty, Nat.disjoint_primeFactors ha_zero hb_zero]
+    have hxy : x.primeFactors ∩ y.primeFactors = ∅ := by
+      rw [← Finset.disjoint_iff_inter_eq_empty, Nat.disjoint_primeFactors hx_zero hy_zero]
+      have : x'.natAbs.Coprime y := Rat.reduced q
+      simpa [hx'] using this
+    apply_fun Finset.toSet at h hab hxy
+    simp only [Finset.coe_union, Finset.coe_inter, Finset.coe_empty, y] at h hab hxy
+    constructorm* _ ∧ _
+    · apply_fun Finset.toSet
```
[the remark this answers is not in the document]
Comment (vasnesterov) [reply Mathlib/Tactic/NormNum/Irrational.lean]: Thanks! I didn't know about that.

File: Mathlib/Tactic/NormNum/Irrational.lean [hunk 4]
```diff
@@ -0,0 +1,414 @@
...
+    apply_fun Finsupp.support at h
+    simp only [Nat.support_factorization, Nat.primeFactors_mul ha_zero (pow_ne_zero d hy_zero),
+      Nat.primeFactors_pow _ hd_zero, Nat.primeFactors_mul (pow_ne_zero d hx_zero) hb_zero, y] at h
+    have hab : a.primeFactors ∩ b.primeFactors = ∅ := by
+      rwa [← Finset.disjoint_iff_inter_eq_empty, Nat.disjoint_primeFactors ha_zero hb_zero]
+    have hxy : x.primeFactors ∩ y.primeFactors = ∅ := by
+      rw [← Finset.disjoint_iff_inter_eq_empty, Nat.disjoint_primeFactors hx_zero hy_zero]
+      have : x'.natAbs.Coprime y := Rat.reduced q
+      simpa [hx'] using this
+    apply_fun Finset.toSet at h hab hxy
```
[the remark this answers is not in the document]
Comment (vasnesterov) [reply Mathlib/Tactic/NormNum/Irrational.lean:171]: It's in my near-future plans to generalize `tauto_set` from sets to Boolean algebras, maybe even to distributive lattices.

File: Mathlib/Tactic/NormNum/Irrational.lean (hunk 2 above)
Comment (vasnesterov) [reply Mathlib/Tactic/NormNum/Irrational.lean]: I've added this one
```lean
example : Irrational ((27/38) ^ (1/3 : ℝ)) := by norm_num1
```

**Comment by vasnesterov** [comment]
Thank you very much for your time and review! I didn't golf the proofs here because I wasn't sure it was worth it. If you think it's better to golf them, I'll do it.

**Comment by dwrensha** [comment]
> If you think it's better to golf them, I'll do it

What concerns me most is that the proof of `not_power_rat_of_num_aux` is really long and takes 8.5 seconds to run on my computer (much of that time coming from `tauto_set`). If you have a way to simplify that, or maybe break it into smaller pieces, I think it would be worthwhile.

File: Mathlib/Tactic/NormNum/Irrational.lean [hunk 5]
```diff
@@ -0,0 +1,408 @@
...
+    simp only [Finset.coe_union, Finset.coe_inter, Finset.coe_empty, y] at h hab hxy
+    clear * - h hab hxy -- to speed up `tauto` below
```
Comment (vasnesterov) [inline Mathlib/Tactic/NormNum/Irrational.lean:173]: This makes the lemma ~3 times faster (2.5s on my machine). Is it enough or it's still slow?

File: scripts/noshake.json [hunk 6]
```diff
@@ -237,6 +237,7 @@
    "Mathlib.Data.Nat.Factorial.Basic",
    "Mathlib.Data.PNat.Defs"],
   "Mathlib.Tactic.Order.CollectFacts": ["Mathlib.Order.Basic"],
+  "Mathlib.Tactic.NormNum.Irrational": ["Mathlib.Tactic.TautoSet"],
```
Comment (dwrensha) [inline scripts/noshake.json:240]: What does this do? Is there a way to avoid needed to add this here?

Comment (dwrensha) [reply scripts/noshake.json:240]: Ah, I found this: https://github.com/leanprover-community/mathlib4/blob/b9e54805c0c52a1ca5a6bcd4833f75d63e123fd5/Shake/Main.lean#L16-L17

Makes sense.

**Comment by dwrensha** [comment]
Looks good to me.

maintainer merge

File: scripts/noshake.json (hunk 6 above)
Comment (vasnesterov) [reply scripts/noshake.json]: I've golfed it, so the proof is now fast (0.15s for me), and `tauto_set` has been removed.

**Comment by adomani** [comment]
Thanks, this looks very good!

I think that it is a little more "natural" replace the "not exists" with "for alls", here is what I have in mind:
```lean
private theorem irrational_rpow_rat_of_not_power {q : ℚ} {a b : ℕ}
    (h : ∀ p : ℚ, q^a ≠ p^b) (hb : 0 < b) (hq : 0 ≤ q) :
    Irrational (Real.rpow q (a / b : ℚ)) := by
  simp only [Irrational, Rat.cast_div, Rat.cast_natCast, Real.rpow_eq_pow, Set.mem_range,
    not_exists]
  intro x hx
  absurd h x
  rify
  rw [hx, ← Real.rpow_mul_natCast, div_mul_cancel₀] <;> simp
  · omega
  · assumption

private theorem not_power_nat_pow {n p q : ℕ}
    (h_coprime : p.Coprime q)
    (hq : 0 < q)
    (h : ∀ m, n ≠ m^q) (m : ℕ) :
    n^p ≠ m^q := by
  by_cases hn : n = 0
  · specialize h 0
    simp [hn, zero_pow hq.ne.symm] at h
  contrapose! h
  apply_fun Nat.factorization at h
  simp only [Nat.factorization_pow] at h
  suffices ∃ f : ℕ →₀ ℕ, n.factorization = q • f by
    obtain ⟨f, hf⟩ := this
    have : f = (f.prod fun x1 x2 => x1 ^ x2).factorization := by
      rw [Nat.prod_pow_factorization_eq_self]
      intro z hz
      apply_fun Finsupp.support at hf
      rw [Finsupp.support_smul_eq (by omega)] at hf
      rw [← hf] at hz
      exact Nat.prime_of_mem_primeFactors hz
    have hf0 : f 0 = 0 := by
      apply_fun (· 0) at hf
      simp only [Nat.factorization_zero_right, Finsupp.coe_smul, Pi.smul_apply, smul_eq_mul,
        zero_eq_mul] at hf
      cases hf
      · omega
      · assumption
    rw [this, ← Nat.factorization_pow] at hf
    apply Nat.factorization_inj at hf
    · use f.prod (· ^ ·)
    · exact hn
    · simp only [ne_eq, Set.mem_setOf_eq, pow_eq_zero_iff', Finsupp.prod_eq_zero_iff,
        Finsupp.mem_support_iff, existsAndEq, true_and, and_self, not_and, Decidable.not_not]
      tauto
  use n.factorization.mapRange (fun e ↦ e / q) (by simp)
  ext z
  apply_fun (· z) at h
  simp only [Finsupp.coe_smul, Pi.smul_apply, smul_eq_mul, Finsupp.mapRange_apply] at h ⊢
  rw [Nat.mul_div_cancel']
  apply Nat.Coprime.dvd_of_dvd_mul_left _ ⟨_, h⟩
  rwa [Nat.coprime_comm]

private theorem not_power_nat_of_bounds {n k d : ℕ}
    (h_left : k^d < n) (h_right : n < (k + 1)^d) {m : ℕ} :
    n ≠ m^d := by
  intro h
  rw [h] at h_left h_right
  have : k < m := lt_of_pow_lt_pow_left' d h_left
  have : m < k + 1 := lt_of_pow_lt_pow_left' d h_right
  omega

private theorem not_power_nat_pow_of_bounds {n k p q : ℕ}
    (hq : 0 < q) (h_coprime : p.Coprime q) (h_left : k^q < n) (h_right : n < (k + 1)^q) (m : ℕ) :
    n^p ≠ m^q := by
  apply not_power_nat_pow h_coprime hq
  intro m
  apply not_power_nat_of_bounds h_left h_right

private lemma eq_of_mul_eq_mul_of_coprime_aux {a b x y : ℕ} (hab : a.Coprime b)
    (h : a * x = b * y) : a ∣ y := Nat.Coprime.dvd_of_dvd_mul_left hab (Dvd.intro x h)

private lemma eq_of_mul_eq_mul_of_coprime {a b x y : ℕ} (hab : a.Coprime b) (hxy : x.Coprime y)
    (h : a * x = b * y) : a = y := by
  apply Nat.dvd_antisymm
  · exact eq_of_mul_eq_mul_of_coprime_aux hab h
  · exact eq_of_mul_eq_mul_of_coprime_aux (x := b) hxy.symm (by rw [mul_comm, ← h, mul_comm])

/-- Weaker version of `not_power_rat_of_num` with extra `q ≥ 0` assumption. -/
private theorem not_power_rat_of_num_aux {a b d : ℕ}
    (h_coprime : a.Coprime b) (ha : ∀ x, a ≠ x^d) {q : ℚ} (hq : 0 ≤ q) :
    (a / b : ℚ) ≠ q^d := by
  by_cases hb_zero : b = 0
  · subst hb_zero
    contrapose! ha
    simp only [Nat.coprime_zero_right] at h_coprime
    subst h_coprime
    use 1
    simp
  by_contra! h
  rw [← Rat.num_div_den q] at h
  set x' := q.num
  set y := q.den
  obtain ⟨x, hx'⟩ := Int.eq_ofNat_of_zero_le (show 0 ≤ x' by rwa [Rat.num_nonneg])
  rw [hx'] at h
  specialize ha x
  simp only [Int.cast_natCast, div_pow] at h
  rw [div_eq_div_iff] at h
  rotate_left
  · simpa
  · apply pow_ne_zero
    simp [y]
  replace h : a * y ^ d = x ^ d * b := by
    qify
    assumption
  apply ha
  conv at h => rhs; rw [mul_comm]
  apply eq_of_mul_eq_mul_of_coprime h_coprime _ h
  apply Nat.Coprime.pow_left
  apply Nat.Coprime.pow_right
  apply Nat.Coprime.symm
  simpa [hx'] using (show x'.natAbs.Coprime y from Rat.reduced q)

private theorem not_power_rat_of_num {a b d : ℕ}
    (h_coprime : a.Coprime b) (ha : ∀ x, a ≠ x^d) (q : ℚ) :
    (a / b : ℚ) ≠ q^d := by
  by_cases hq : 0 ≤ q
  · apply not_power_rat_of_num_aux h_coprime ha hq
  rcases d.even_or_odd with (h_even | h_odd)
  · have := not_power_rat_of_num_aux h_coprime (q := -q) ha (by linarith)
    rwa [h_even.neg_pow] at this
  · contrapose! hq
    rw [← h_odd.pow_nonneg_iff, ← hq]
    positivity
```

File: Mathlib/Tactic/NormNum/Irrational.lean [hunk 7]
```diff
@@ -0,0 +1,368 @@
...
+structure NotPowerCertificate (m n : Q(ℕ)) where
+  /-- Natural `k` such that `k^n < m < (k + 1)^n`. -/
+  k : Q(ℕ)
+  /-- Proof of `k^n < m`. -/
+  pf_left : Q($k^$n < $m)
+  /-- Proof of `m < (k + 1)^n`. -/
+  pf_right : Q($m < ($k + 1)^$n)
+
+/-- Finds `k` such that `k^n < m < (k + 1)^n` using bisection method. It assumes `n > 0`. -/
+def findNotPowerCertificateCore (m n : ℕ) : Option ℕ := Id.run do
```
Comment (adomani) [inline Mathlib/Tactic/NormNum/Irrational.lean:277]:
```suggestion
/-- Finds `k` such that `k^n < m < (k + 1)^n` using bisection method.  Returns `none` if `n = 0`. -/
def findNotPowerCertificateCore (m n : ℕ) : Option ℕ := Id.run do
  if n = 0 then return none
```

Comment (vasnesterov) [reply Mathlib/Tactic/NormNum/Irrational.lean:277]: I'm not sure about this. As I mentioned above, `n` is always at least 2 in our applications, so this if statement would just be a waste of time.
